US07365085B2
a) 3-(3-Benzyloxy-benzyl)-1,2,4-triazole
To a stirring solution of 3-benzyloxyphenylacetonitrile (5.0 g, 0.022 mole) in methanol (100 mL) was added formic hydrazide (2.69 g, 0.060 mole) and solid potassium carbonate (9.9 g, 0.027 mole). The reaction was heated at reflux and stirred overnight. The mixture was cooled to RT, filtered, and the filtrate was concentrated. The crude product was purified by column chromatography over silica gel (silica gel 60, EM Science) using 75% ethyl acetate:hexane as eluent to afford 1.8 g (30% yield) of the title compound as an oil: MS (ESI) 266.0 (M+H+).

reactant | 3-benzyloxyphenylacetonitrile | 0.022 mole, 5.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC#N | C15H13NO
reactant | formic hydrazide | 0.060 mole, 2.69 g | C(=O)NN | CH4N2O
reactant | potassium carbonate | 0.027 mole, 9.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | methanol | 100 mL | CO | CH4O
product | 3-(3-Benzyloxy-benzyl)-1,2,4-triazole | 1.8 g, 30% yield | C(C1=CC=CC=C1)OC=1C=C(CC2=NNC=N2)C=CC1 | C16H15N3O
